US06221898B1
(i) [2-(4-Cyanophenyl)ethoxy]-4-methyl-3-nitrobenzene
4-Methyl-3-nitrophenol (0.765 g; 5.0 mmol), 2-(4-cyanophenyl)ethanol (0.735 g; 5.0 mmol) and diethylazodicarboxylate (0.87 g; 5.0 mmol) were dissolved in THF (20 mL). Triphenylphosphine (1.31 g; 5.0 mmol), dissolved in THF (5 mL), was added and the solution stirred overnight. Evaporation in vacuo and the addition of diethyl ether afforded a yellow solid that was recrystallized from water:acetone (9:1), affording the sub-title compound as yellowish crystals. Yield: 1.04 g (74%).

reactant | 4-Methyl-3-nitrophenol | 5.0 mmol, 0.765 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | 2-(4-cyanophenyl)ethanol | 5.0 mmol, 0.735 g | C(#N)C1=CC=C(C=C1)CCO | C9H9NO
reactant | diethylazodicarboxylate | 5.0 mmol, 0.87 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Triphenylphosphine | 5.0 mmol, 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [2-(4-Cyanophenyl)ethoxy]-4-methyl-3-nitrobenzene | C(#N)C1=CC=C(C=C1)CCOC1=CC(=C(C=C1)C)[N+](=O)[O-] | C16H14N2O3
